US06521666B1
Thiomorpholine (3.4 g) was added to a solution of 3,5-dimethoxybenzyl chloride (2 g) in THF (25 mL) and the mixture was stirred overnight at room temperature. The solid material was removed by filtration and the filtrate was evaporated. The residue was purified by column chromatography (silica gel; eluent: EtOAc/hexane 1/2) to yield 2 g of 3,5-dimethoxy-1-(thiomorpholino-methyl)benzene. ESMS: m/z 253 (M).

reactant | Thiomorpholine | 3.4 g | N1CCSCC1 | C4H9NS
reactant | 3,5-dimethoxybenzyl chloride | 2 g | COC=1C=C(CCl)C=C(C1)OC | C9H11ClO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3,5-dimethoxy-1-(thiomorpholino-methyl)benzene | 2 g | COC=1C=C(C=C(C1)OC)CN1CCSCC1 | C13H19NO2S
